US05098466
To a solid 100 mg of O-phenyl 3,5-difluorophenylcarbamate 0.7 mL of hydrazine monohydrate was added. After stirring for 3 h at room temperature a white solid is collected by filtration, washed with water and ether. Removal of traces of the solvents in vacuo gives 4-(3,5-difluorophenyl)-semicarbazide: m.p. 177°-179° C.

reactant | O-phenyl 3,5-difluorophenylcarbamate | 0.7 mL, 100 mg | FC=1C=C(C=C(C1)F)NC(OC1=CC=CC=C1)=O | C13H9F2NO2
reactant | hydrazine monohydrate | O.NN
product | 4-(3,5-difluorophenyl)-semicarbazide | FC=1C=C(C=C(C1)F)NC(NN)=O | C7H7F2N3O
